US07405221B2
2-Methylsulfonyl-4-(2,4-dichlorophenyl)-5-(4-chlorophenyl)pyrimidine from Reference Example 3 was reacted with 3-hydroxypyridine according to the procedure described in Example 74 to afford 2-(3-pyridyloxy)-4-(2,4-dichlorophenyl)-5-(4-chlorophenyl)pyrimidine: HPLC/MS: m/e=428 (M++1); Rt=3.49 min; 1H-NMR 400 MHz (CDCl3): δ 7.05 (d, J=9 Hz, 2H), 7.19-7.30 (m, 4H), 7.38-7.42 (m, 2H), 7.65 (m, 1H), 8.55 (d, J=6 Hz, 1H), 8.60 (s, 1H), 8.65 (d, J=2 Hz, 1H).

reactant | 2-Methylsulfonyl-4-(2,4-dichlorophenyl)-5-(4-chlorophenyl)pyrimidine | CS(=O)(=O)C1=NC=C(C(=N1)C1=C(C=C(C=C1)Cl)Cl)C1=CC=C(C=C1)Cl | C17H11Cl3N2O2S
reactant | 3-hydroxypyridine | OC=1C=NC=CC1 | C5H5NO
product | 2-(3-pyridyloxy)-4-(2,4-dichlorophenyl)-5-(4-chlorophenyl)pyrimidine | N1=CC(=CC=C1)OC1=NC=C(C(=N1)C1=C(C=C(C=C1)Cl)Cl)C1=CC=C(C=C1)Cl | C21H12Cl3N3O
